US08802663B2
Step 1: 1H-indazole-5-carbonitrile
5-Bromo-1H-indazole (Fluorochem; 500 mg; 2.54 mmol), S-Phos (93.8 mg; 0.229 mmol), Pd2(dba)3 (93.0 mg; 0.102 mmol) and zinc cyanide (337.0 mg; 2.87 mmol) were suspended in degassed water:DMF (1:99, 11.5 mL) in a microwave vial and further degassed for 10 minutes in a sonicator. The vial was then sealed and heated in the microwave at 150° C. for 45 minutes. The solid material was removed by filtration and the crude material purified by flash chromatography on a Biotage 40+M column, eluting with DCM containing increasing amounts of methanol. The residue was recrystallised from chloroform/petrol to yield the title compound as an off white solid (1.33 g; 91%). 1H NMR (CDCl3, 400 MHz) δ 10.46 (1 H, br s), 8.20 (2 H, d, J=8.3 Hz), 7.61 (2 H, s).

reactant | 5-Bromo-1H-indazole | 2.54 mmol, 500 mg | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | S-Phos | 0.229 mmol, 93.8 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | water DMF | 11.5 mL | O.CN(C)C=O
catalyst | Pd2(dba)3 | 0.102 mmol, 93.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc cyanide | 2.87 mmol, 337.0 mg | [C-]#N.[Zn+2].[C-]#N
product | 1H-indazole-5-carbonitrile | N1N=CC2=CC(=CC=C12)C#N | C8H5N3
